US05834506
(S)-3-Hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid
The title compound was prepared by dissolving (S)-3-hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid methyl ester (0.57 g, 2.15 mmol) from Example TTTT in MeOH (30 mL). Lithium hydroxide (0.18 g, 4.29 mmol) in water (10 mL) was added and the reaction heated to reflux for 1 hour, cooled and pumped to dryness under vacuum. The product was partitioned between water and Et2O. The aqueous layer was decanted, acidified with 1N HCl and extracted with Et2O. The solution was dried (MgSO4) and concentrated to give the title compound (m.p. 137°-140° C.).

reactant | (S)-3-hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid methyl ester | 2.15 mmol, 0.57 g | COC(C[C@](C(C)C)(CCC1=CC=C(C=C1)O)O)=O | C15H22O4
reactant | Lithium hydroxide | 4.29 mmol, 0.18 g | [OH-].[Li+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (S)-3-Hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid | O[C@@](CC(=O)O)(C(C)C)CCC1=CC=C(C=C1)O | C14H20O4
